US09108944B2
A mixture of 4-nitrobenzaldehyde (3.0 g, 19.8 mmol), 4-pyridylmethylamine (2.36 g, 21.8 mmol), and NaBH3CN (1.75 g, 27.7 mmol) in 1,2-dichloroethane (40.0 mL) was stirred at room temperature for 36 h and then concentrated to dryness. The residue was partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc (3×). The combined organics were washed with brine (2×), dried over sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel (MeOH/DCM=1/400) to afford 1.3 g of N-(4-nitrobenzyl)-1-(pyridin-4-yl)methanamine as brown oil.

reactant | 4-nitrobenzaldehyde | 19.8 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 4-pyridylmethylamine | 21.8 mmol, 2.36 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | NaBH3CN | 27.7 mmol, 1.75 g | [BH3-]C#N.[Na+]
solvent | 1,2-dichloroethane | 40.0 mL | ClCCCl | C2H4Cl2
product | N-(4-nitrobenzyl)-1-(pyridin-4-yl)methanamine | 1.3 g | [N+](=O)([O-])C1=CC=C(CNCC2=CC=NC=C2)C=C1 | C13H13N3O2
